US04298602
2-Benzoyl-2-(2-pyridinyl)hydrazinecarboxamide
A mixture was prepared by admixing 15.22 g (0.1 mole) of 2-(2-pyridinyl)hydrazinecarboxamide with a solution of 16.2 g (0.16 m) of triethylamine in 200 ml of acetonitrile. The mixture was stirred while a solution of 21.08 g (0.15 m) of benzoyl chloride in 50 ml of acetonitrile was added. After an induction period of ~5 minutes, the mixture exothermed reaching a peak temperature of 52° C. after 10 minutes. The reaction mixture was then stirred, without heating, for 51/2 hours and then heated under reflux for 2 hours. The mixture was cooled and the crude solid 2-benzoyl-2-(2-pyridinyl)hydrazinecarboxamide product was collected by filtration. The product was washed with water and air dried and recovered in a yield of 6.1 g (24 percent of theoretical). The product was recrystallized from methanol and melted at 206° C. and upon analysis, the product was found to have carbon, hydrogen and nitrogen contents of 60.53, 4.62 and 21.47 percent, respectively, as compared with the theoretical contents of 60.92, 4.72 and 21.87 percent, respectively, calculated for the above named compound.

reactant | 2-(2-pyridinyl)hydrazinecarboxamide | 0.1 mole, 15.22 g | N1=C(C=CC=C1)NNC(=O)N | C6H8N4O
reactant | triethylamine | 16.2 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 21.08 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-Benzoyl-2-(2-pyridinyl)hydrazinecarboxamide | C(C1=CC=CC=C1)(=O)N(NC(=O)N)C1=NC=CC=C1 | C13H12N4O2
